US07217724B2
7-{[tert-Butyl(dimethyl) silyl]oxy}1H-benzimidazole
To 3-{[tert-butyl(dimethyl)silyl]oxy}benzene-1,2-diamine (4.27 g, 17.9 mmol) is added diethoxymethyl acetate (8.7 g, 53.6 mmol), and the mixture is stirred at room temperature for 5 hours. The precipitated white solid is collected by filtration, and the filtrate is further stirred at room temperature for 12 hours. The precipitated white solid is collected by filtration, and washed with a small amount of hexane. The filtrate is concentrated under reduced pressure, ant the obtained residue is purified by silica gel column chromatography (ammonic chloroform) to give the title compound as white solid (1.89 g, yield: 43%).

reactant | 3-{[tert-butyl(dimethyl)silyl]oxy}benzene-1,2-diamine | 17.9 mmol, 4.27 g | [Si](C)(C)(C(C)(C)C)OC1=C(C(=CC=C1)N)N | C12H22N2OSi
reactant | diethoxymethyl acetate | 53.6 mmol, 8.7 g | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 7-{[tert-Butyl(dimethyl) silyl]oxy}1H-benzimidazole | 1.89 g, yield: 43% | [Si](C)(C)(C(C)(C)C)OC1=CC=CC2=C1NC=N2 | C13H20N2OSi
